US08426643B2
A solution of 0.105 g (0.634 mmol) of (1S,2S,5R)-2-isopropyl-5-methylcyclohexanecarbonitrile in 4.9 mL of dimethyl sulfoxide was placed in a 10 mL flask with a magnetic stir bar. After adding 0.60 mL of 35% hydrogen peroxide and 0.097 g (1.2 mmol) of 50% sodium hydroxide solutions the flask was capped and stirred at room temperature for 20 h. The reaction mixture was diluted with 10 mL of water, extracted twice with 10 mL of methylene chloride. The combined methylene chloride layers were back extracted with 3×20 mL of water, dried over magnesium sulfate, and concentrated in vacuo to provide an off-white solid that was further purified by column chromatography (silica gel, 75:25 hexane:ethyl acetate) to provide (1S,2S,5R)-2-isopropyl-5-methylcyclohexanecarboxamide.

reactant | (1S,2S,5R)-2-isopropyl-5-methylcyclohexanecarbonitrile | 0.634 mmol, 0.105 g | C(C)(C)[C@H]1[C@H](C[C@@H](CC1)C)C#N | C11H19N
reactant | hydrogen peroxide | 0.60 mL | OO | H2O2
reactant | sodium hydroxide | 1.2 mmol, 0.097 g | [OH-].[Na+]
solvent | dimethyl sulfoxide | 4.9 mL | CS(=O)C | C2H6OS
solvent | water | 10 mL | O | H2O
product | (1S,2S,5R)-2-isopropyl-5-methylcyclohexanecarboxamide | C(C)(C)[C@H]1[C@H](C[C@@H](CC1)C)C(=O)N | C11H21NO
